US07576115B2
Synthesis of 5-{[(2-{1-[5-(4-chlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-thiophenecarboxylic acid
From 1-[5-(4-chlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (37.5 mg, 0.15 mmol) and 5-hydrazinocabonothioylamino-2-thiophenecarboxylic acid (33 mg, 0.14 mmol), the desired product was obtained in the same manner as in Synthetic Example 114 as a pale yellow solid (62.0 mg, yield 83%).

reactant | 1-[5-(4-chlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.15 mmol, 37.5 mg | ClC1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C12H11ClN2O2
reactant | 5-hydrazinocabonothioylamino-2-thiophenecarboxylic acid | 0.14 mmol, 33 mg | N(N)C(=S)NC1=CC=C(S1)C(=O)O | C6H7N3O2S2
product | 5-{[(2-{1-[5-(4-chlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-thiophenecarboxylic acid | ClC1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC=C(S1)C(=O)O)O | C18H16ClN5O3S2
